US07812040B2
N-Benzyl-3-oxocyclobutanecarboxamide (4).
Acid, 3-oxocyclobutanecarboxylic acid (10 g, 0.087 mol), benzylamine (10.5 mL, 0.96 mol), and triethylamine (38 mL, 0.26 mol) were dissolved in DMF (100 mL). BOP (38.7 g, 0.087 mol) was added at 0° C. under stirring in argon. The mixture was stirred at 20° C. for 20 h, evaporated, and the residue was dried at 0.5 mmHg. The residue was purified by chromatography (silica gel, 63-100 μm, 1 L, CCl4→CHCl3, CHCl3/MeOH 100:0→95:5). The title compound (7.12 g, 40%) was obtained as a colorless oil. 1H NMR-data (DMSO-d6): 8.62 (br.s, 1H, NH); 7.21-7.36 (m, 5H, Ph); 4.32 (d, 2H, CH2, J=6.1 Hz); 3.10-3.28 (m, 5H).

reactant | 3-oxocyclobutanecarboxylic acid | 0.087 mol, 10 g | O=C1CC(C1)C(=O)O | C5H6O3
reactant | benzylamine | 0.96 mol, 10.5 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 0.26 mol, 38 mL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.087 mol, 38.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N-Benzyl-3-oxocyclobutanecarboxamide | 7.12 g, 40% | C(C1=CC=CC=C1)NC(=O)C1CC(C1)=O | C12H13NO2
